US04784996
10-Hydroxy-10-(3-methoxy-2-methylpropyl)-2,3,4,10-tetrahydropyrimido[1,2-a]indole
1-Bromo-3-methoxy-2-methylpropane (10.02 g) in ether (50 ml) was added dropwise over 20 minutes to magnesium turnings (1.46 g) in ether (10 ml). The mixture was stirred under argon at room temperature for 30 minutes, cooled to 0° and 3,4-dihydropyrimido[1,2-a]indol-10(2H)-one (3.72 g) in dry 1,2-dichloroethane (20 ml) added dropwise over 20 minutes. The solution was stirred under argon at 0° for 1 hour, poured onto a swirling mixture of ice (100 ml) and saturated aqueous ammonium chloride (60 ml). The mixture was stirred for 20 minutes and concentrated in vacuo. The aqueous residue was extracted with chloroform (3×100 ml). The extracts were dried (Na2SO4) and concentrated in vacuo. Ether (20 ml) was added and the product was filtered and recrystallised from ethyl acetate to give the title compound as the free base (2.85 g), m.p. 162°-167° C. The free base was acidified with ethereal HCl to give the title compound as the hydrochloride, m.p. 244° (dec.).

reactant | 1-Bromo-3-methoxy-2-methylpropane | 10.02 g | BrCC(COC)C | C5H11BrO
reactant | magnesium | 1.46 g | [Mg] | Mg
reactant | 3,4-dihydropyrimido[1,2-a]indol-10(2H)-one | 3.72 g | N=1CCCN2C1C(C=1C=CC=CC21)=O | C11H10N2O
reactant | ammonium chloride | 60 ml | [Cl-].[NH4+]
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | 10-Hydroxy-10-(3-methoxy-2-methylpropyl)-2,3,4,10-tetrahydropyrimido[1,2-a]indole | OC1(C=2N(C=3C=CC=CC13)CCCN2)CC(COC)C | C16H22N2O2
